US09358231B2
B. 3-((5-(tert-butoxycarbonylamino)pyrazin-2-yl)methylamino)-4-methylbenzoic acid
Methyl 3-((5-(tert-butoxycarbonylamino)pyrazin-2-yl)methylamino)-4-methylbenzoate (600 mg, 1.61 mmol) in THF (2 mL) and MeOH (2 mL) was added LiOH—H2O (338 mg, 8.06 mmol) in water (2mL). The reaction mixture was stirred for overnight at room temperature. The organic solvent was removed under reduced pressure and water (4 mL) was added to the reaction mixture. To a reaction mixture was added 1N HCl solution to produce solid. The solid product was filtered and dried with nitrogen gas flow. The title product (460 mg, 79% yield) was used next reaction without further purification. MS m/z: 359 [M+1].

reactant | Methyl 3-((5-(tert-butoxycarbonylamino)pyrazin-2-yl)methylamino)-4-methylbenzoate | 1.61 mmol, 600 mg | C(C)(C)(C)OC(=O)NC=1N=CC(=NC1)CNC=1C=C(C(=O)OC)C=CC1C | C19H24N4O4
reactant | LiOH—H2O | 8.06 mmol, 338 mg | O[Li].O
solvent | THF | 2 mL | C1CCOC1 | C4H8O
solvent | MeOH | 2 mL | CO | CH4O
solvent | water | 2mL | O | H2O
product | 3-((5-(tert-butoxycarbonylamino)pyrazin-2-yl)methylamino)-4-methylbenzoic acid | 460 mg, 79% yield | C(C)(C)(C)OC(=O)NC=1N=CC(=NC1)CNC=1C=C(C(=O)O)C=CC1C | C18H22N4O4
